US06767974B1
An aqueous solution was prepared that contained dodecylbenzenesulfonic acid sodium salt (“SDBS”) (6 g), Na2S2O7 (1.42 g, 0.0059 mol), HOTEMPO (1.85 g, 0.0107 mol), acrylic acid (9 ml) and de-ionized water (1.2 L). To this was added 300 mL of the pre-polymer (prepared according to Example 1) and stirred for about 5 minutes. The mixture was then piston homogenized for one pass at about 700 BAR. The mini-emulsion was transferred to the 2 L PARR reactor and then deoxygenated by 10 pressurization/depressurization cycles with argon. The mini-emulsion was then heated to 135° C. After 1 hour at temperature, 8 ml of ascorbic acid (0.189 g/ml) was continuously added at a rate of 0.033 ml per minute over a 4-hour period. After a total of 6 hours at temperature the reaction was cooled to yield a poly(styrene/butyl acrylate) latex of Mn=13,000, Tg of ˜50C with a PD of 1.46 and particle size of ˜190 nm.

reactant | dodecylbenzenesulfonic acid sodium salt | 6 g | [Na+].C(CCCCCCCCCCC)C1=C(C=CC=C1)S(=O)(=O)[O-]
reactant | acrylic acid | 9 ml | C(C=C)(=O)O | C3H4O2
solvent | water | 1.2 L | O | H2O
product | styrene butyl acrylate | C=CC1=CC=CC=C1.C(C=C)(=O)OCCCC | InChI=1S/C8H8.C7H12O2/c1-2-8-6-4-3-5-7-8;1-3-5-6-9-7(8)4-2/h2-7H,1H2;4H,2-3,5-6H2,1H3
